US05397798
N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[4-phenylbenzoyl]amino]-benzamide
The titled compound was prepared substantially in accordance with the method detailed in Example 11 using 1.50 g (0.00651 mol) of 2-amino-N-[2-(1H-imidazol-2-yl)ethyl]benzamide, prepared as in Example 6A, and 3.76 g (0.01738 mol) of p-phenylbenzoyl chloride, with the exception that after removing ethyl acetate the final product was recrystallized from an ethyl acetate/methanol solution to provide 1.74 g of the desired titled compound (m.p. 197°-201° C.).

reactant | 2-amino-N-[2-(1H-imidazol-2-yl)ethyl]benzamide | 0.00651 mol, 1.50 g | NC1=C(C(=O)NCCC=2NC=CN2)C=CC=C1 | C12H14N4O
reactant | p-phenylbenzoyl chloride | 0.01738 mol, 3.76 g | C1(=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO
product | N-[2-(1H-Imidazol-2-yl)ethyl]-2-[[4-phenylbenzoyl]amino]-benzamide | 1.74 g | N1C(=NC=C1)CCNC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C1=CC=CC=C1)=O)=O | C25H22N4O2
